US09447074B2
Intermediate 68 1,2-bis(methyloxy)-4-{[(methyloxy)methyl]oxy}benzene
To a stirred solution of 3,4-bis(methyloxy)phenol (Commercial eg Alfa Aesar) (1.0 g) and DIPEA (2.28 ml) in DCM (15 ml) was added chloromethyl methyl ether (0.74 ml) at 0 C. After stirring at 25-30 C. for 17 h, the reaction was washed with dilute hydrochloric acid and saturated aqueous sodium bicarbonate. This was dried over sodium sulphate and purified through silica eluting with 0-5% ethyl acetate in hexane, to give the title compound, 0.80 g

reactant | 3,4-bis(methyloxy)phenol | 1.0 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | DIPEA | 2.28 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 0.74 ml | COCCl | C2H5ClO
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 1,2-bis(methyloxy)-4-{[(methyloxy)methyl]oxy}benzene | COC1=C(C=C(C=C1)OCOC)OC | C10H14O4
